US04432984
2-hydroxymethyl 6-methyl 2,3-dihydro [4H] 1,4-benzodioxin
In a reactor fitted with a stirring device 149 g 4-methyl pyrocatechol and 144 g epichlorhydrin are mixed together and heated at 70°, then a solution of 53 g sodium hydroxide in 440 ml water is slowly added. The reaction mixture is further heated at 70° for 2.30 hours then poured in water and extracted with ethyl acetate. The resulting raw product is separated after evaporation of the solvent and purified by fractional distillation under reduced pressure. 84 g of the title compound are obtained, boiling at 136°-140°/2 mm Hg.

reactant | 4-methyl pyrocatechol | 149 g | CC=1C=C(C(O)=CC1)O | C7H8O2
reactant | epichlorhydrin | 144 g | C(Cl)C1CO1 | C3H5ClO
reactant | sodium hydroxide | 53 g | [OH-].[Na+]
solvent | water | 440 ml | O | H2O
product | 2-hydroxymethyl 6-methyl 2,3-dihydro [4H] 1,4-benzodioxin | 84 g | OCC1COC2=C(O1)C=CC(=C2)C | C10H12O3
